US05484761
4-Benzyloxy-2-pyridone (26.3 g, 0.131 mol) and POCl3 (200 mL) was heated at reflux for 2 h. The mixture was cooled and poured into 1 L of crushed ice and then 500 mL of ethyl acetate was added. The mixture was treated with decolorizing carbon, filtered and then treated with solid potassium carbonate until gas ceased to evolve. The mixture was filtered and the layers were separated. The aqueous layer was extracted three times with ethyl acetate. The combined organic layers were treated with decolorizing carbon, dried (MgSO4), filtered and the solvent was removed in-vacuo. The crude product was chromatographed to give 2-chloro-4-benzyloxypyridine (8 g, 28% yield) as a white solid, mp=91° C. -93° C. Anal. Calcd. for C12H10NO: C,65.61; H,4.59; N,6.38 Found: C,,65.59; H,4.55; N,6.39.

reactant | 4-Benzyloxy-2-pyridone | 0.131 mol, 26.3 g | C(C1=CC=CC=C1)OC1=CC(NC=C1)=O | C12H11NO2
reactant | POCl3 | 200 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 2-chloro-4-benzyloxypyridine | 8 g, 28% yield | ClC1=NC=CC(=C1)OCC1=CC=CC=C1 | C12H10ClNO
